US04228183
2.85 g of dopamine hydrochloride, 4.32 g of N-hydroxysuccinimide ester of N-acetyl-L-methionine, 3.04 g of triethylamine and 15 ml of dimethylformamide are treated in the same manner as described in Example 5. After the reaction, the mixture is condensed under reduced pressure to remove solvent. The residue is dissolve in ethyl acetate, washed with water and dried. The solution is condensed to remove solvent. 3.1 g of N-(N-acetyl-L-methionyl)-dopamine are obtained as caramel.

reactant | dopamine hydrochloride | 2.85 g | Cl.NCCC1=CC(O)=C(O)C=C1
reactant | N-acetyl-L-methionine | C(C)(=O)N[C@@H](CCSC)C(=O)O | C7H13NO3S
reactant | triethylamine | 3.04 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(N-acetyl-L-methionyl)-dopamine | 3.1 g | C(C)(=O)N[C@@H](CCSC)C(=O)NCCC1=CC(O)=C(O)C=C1 | C15H22N2O4S
